US07713994B2
To a solution of 1-bromomethyl-4-nitro-benzene (86.4 mg, 0.4 mmol) in tetrahydrofuran (800 μL) is added triethylamine (200 μL) and 2-(methoxyethyl)methylamine (43 μL, 0.4 mmol). The reaction mixture is shaken at 50° C. for 5 hours. To the reaction mixture is then added 500 μL each of tetrahydrofuran and methanol followed by 350 mg of PS-Ph3P resin to remove unreacted alkyl bromide and shaken for 1 h. The resin is filtered off, rinsed with dichloromethane and the filtrate concentrated. To the residue is added 500 μL each of tetrahydrofuran and methanol followed by 350 mg of PS-TsOH resin to remove unreacted amine. This is then shaken for two hours, filtered, washed with dichloromethane, and concentrated to yield (2-methoxy-ethyl)-methyl-(4-nitro-benzyl)-amine, which is used as such for the subsequent reaction.

reactant | 1-bromomethyl-4-nitro-benzene | 0.4 mmol, 86.4 mg | BrCC1=CC=C(C=C1)[N+](=O)[O-] | C7H6BrNO2
reactant | triethylamine | 200 μL | C(C)N(CC)CC | C6H15N
reactant | methanol | CO | CH4O
reactant | Ph3P | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | tetrahydrofuran | 800 μL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 μL | O1CCCC1 | C4H8O
product | (2-methoxy-ethyl)-methyl-(4-nitro-benzyl)-amine | COCCN(CC1=CC=C(C=C1)[N+](=O)[O-])C | C11H16N2O3
